US06015654
1) 2-(2-ethylhexanoylamino)-4-nitrophenol (preliminary product 1)
77 g 2-amino-4-nitrophenol were dissolved in 1600 ml pyridine. 81 g 2-ethylhexanoic acid chloride were added at 15 C. over 1 hour and the batch was subsequently heated at 35 C. for 5 hours. 250 ml methylene chloride and 700 ml water were added thereto, and the organic phase was washed with water and dilute hydrochloric acid and dried over Na2SO4, and the solvent was distilled off. The crude product was purified by means of column chromatography (silica gel 60, mobile phase toluene/ethyl acetate (4:1)) and was recrystallised from aqueous ethanol: 39 g of yellow solid with a melting point of 151 to 152 C.

reactant | 2-amino-4-nitrophenol | 77 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | 2-ethylhexanoic acid chloride | 81 g | C(C)C(C(=O)Cl)CCCC | C8H15ClO
reactant | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
reactant | water | 700 ml | O | H2O
solvent | pyridine | 1600 ml | N1=CC=CC=C1 | C5H5N
product | 2-(2-ethylhexanoylamino)-4-nitrophenol | C(C)C(C(=O)NC1=C(C=CC(=C1)[N+](=O)[O-])O)CCCC | C14H20N2O4
